US07354920B2
a) 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol
The procedure for the synthesis of example 1a, 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol, was followed using 2-(trifluoromethoxy)benzyl bromide (available from Fluorochem) as starting material and making non-critical variations, to yield the title compound. FIA [M+H]+=458.

reactant | 1-(4-Benzyl-morpholin-2-yl)-2-(2-methoxy-phenyl)-1-phenyl-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC)(O)C1=CC=CC=C1 | C26H29NO3
reactant | 2-(trifluoromethoxy)benzyl bromide | FC(OC1=C(CBr)C=CC=C1)(F)F | C8H6BrF3O
product | 1-(4-Benzyl-morpholin-2-yl)-1-phenyl-2-(2-trifluoromethoxy-phenyl)-ethanol | C(C1=CC=CC=C1)N1CC(OCC1)C(CC1=C(C=CC=C1)OC(F)(F)F)(O)C1=CC=CC=C1 | C26H26F3NO3
